US08080552B2
1-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-phenyl-urea
283 mg (1.75 mmol) 1,1′-Carbonyl-diimidazol (CDI) were given to a solution of 262 mg (1.59 mmol) 3-trimethylsilanyl-phenylamine (Kimes, A. S., J. Med. Chem. 35 (1992) 4683-4689) in 4.0 ml dichloro-methane and stirred for 12 h. A solution of 413 mg (1.59 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 6 ml dichloromethane was added within 30 min. and the mixture stirred for 12 h at r.t. The reaction mixture was evaporated and the residue was purified by chromatography on silica gel (dichloromethane/ethanol 96:4). The obtained material was washed with ether, the precipitate was isolated by filtration and dried.

reactant | 1,1′-Carbonyl-diimidazol | 1.75 mmol, 283 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-trimethylsilanyl-phenylamine | 1.59 mmol, 262 mg | C[Si](C=1C=C(C=CC1)N)(C)C | C9H15NSi
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.59 mmol, 413 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | dichloro-methane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-phenyl-urea | OCCCNC1=NC=CC(=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C20H21N5O3
